US04493931
2-(5-Bromothien-2-yl)-ethylamine hydrochloride
A solution containing 3.42 g. (0.01 mol) diethyl N-[2-(5-bromothien-2-yl)-ethyl]-phosphoramidate in 50 ml. diisopropyl ether saturated with hydrogen chloride is stirred overnight at ambient temperature. The crystals formed are filtered off and washed with diisopropyl ether. After drying, there is obtained 1.45 g. (yield: 60%, referred to the phosphoramidate used) of the desired product in the form of silverygrey flakes; m.p. 220° C. (decomposition)

reactant | diethyl N-[2-(5-bromothien-2-yl)-ethyl]-phosphoramidate | 0.01 mol | BrC1=CC=C(S1)CCNP(OCC)(OCC)=O | C10H17BrNO3PS
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | hydrogen chloride | Cl | ClH
reactant | phosphoramidate | P([O-])([O-])(=O)N
product | 2-(5-Bromothien-2-yl)-ethylamine hydrochloride | yield: 60% | Cl.BrC1=CC=C(S1)CCN | InChI=1S/C6H8BrNS.ClH/c7-6-2-1-5(9-6)3-4-8;/h1-2H,3-4,8H2;1H
